US05773656
A mixture of 1.6 g of ethyl 2-phenyl-propionate and 18 ml of tert-butanol is treated at 50° C. with stirring with 0.35 g of lipase from Candida antarctica (Novozym 435, activity 7000 PLU/g). Ammonia is then passed into the reaction mixture with stirring at 50° to 53° C. until it is saturated. The mixture is stirred at 50° to 53° C. for a further 8 hours and during the course of this a slow stream of ammonia is continuously passed through the apparatus. The mixture is then worked up in the manner indicated in Example 1. 0.6 g (90% of theory, conversion 46 area per cent GC) of (R)-2-phenyl-propionamide having an ee value of >98% is obtained.

reactant | ethyl 2-phenyl-propionate | 1.6 g | C1(=CC=CC=C1)C(C(=O)OCC)C | C11H14O2
reactant | Ammonia | N | H3N
solvent | tert-butanol | 18 ml | C(C)(C)(C)O | C4H10O
product | (R)-2-phenyl-propionamide | 0.6 g, 90% | C1(=CC=CC=C1)[C@H](C(=O)N)C | C9H11NO
